US07737152B2
N-{4-[6-(3,4,5-trimethoxyphenylamino)pyrazin-2-yloxy]naphthalen-1-yl}acetamide, CJS 712
Using Method X, with 200 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine (all amounts scaled accordingly) and N-(4-hydroxynaphthalen-1-yl)acetamide (CJS 704), using an identical workup and chromatography using a mixture of ethyl acetate and dichloromethane (7:3) furnished 31 mg of the title compound. Yield: 6.7%. 1H NMR (250 MHz, DMSO-d6) δ 2.21 (s, 3H), 3.20 (s, 9H), 3.48 (s, 3H), 6.61 (s, 2H), 7.31 (d, 1H, J=8.2 Hz), 7.59 (t, 2H, J=7.6 Hz), 7.70 (d, 1H, J=8.3 Hz), 7.91 (s, 1H), 7.96-7.99 (m, 2H), 8.13 (d, 1H, J=7.8 Hz), 9.49 (s, 1H), 9.93 (s, 1H). 13C NMR (62.5 MHz, DMSO-d6) δ 23.44, 55.10, 59.95, 95.38, 116.77, 120.89, 121.48, 121.61, 123.18, 126.38, 126.53, 127.11, 128.23, 128.71, 130.90, 131.98, 136.18, 146.44, 150.64, 152.59, 158.26, 168.93. m/z [(M+H)+ calcd for C25H24N4O5 460.2].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 200 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | N-(4-hydroxynaphthalen-1-yl)acetamide | OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C12H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-{4-[6-(3,4,5-trimethoxyphenylamino)pyrazin-2-yloxy]naphthalen-1-yl}acetamide | 31 mg, Yield: 6.7% | COC=1C=C(C=C(C1OC)OC)NC1=CN=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C)=O | C25H24N4O5
